US04405714
6-Amino-6-desoxy-L-sorbose hydrochloride
20 g of N-tert.-butoxycarbonyl-6-amino-6-desoxy-L-sorbose were introduced in portions into a mixture of 6.4 ml of H2O and 13.2 ml of concentrated hydrochloric acid, whilst stirring and cooling. The batch was subsequently stirred for 2 hours, without cooling, and 120 ml of n-propanol were then added in the course of 2 hours. The resulting suspension of crystals was then stirred at 0° C. for 1 hour and filtered on a suction filter. The crystals were washed with a little n-propanol and dried at room temperature in a vacuum drying cabinet.

reactant | N-tert.-butoxycarbonyl-6-amino-6-desoxy-L-sorbose | 20 g | C(C)(C)(C)OC(=O)NC[C@@H]([C@H]([C@@H](C(CO)=O)O)O)O | C11H21NO7
reactant | H2O | 6.4 ml | O | H2O
reactant | hydrochloric acid | 13.2 ml | Cl | ClH
solvent | n-propanol | 120 ml | C(CC)O | C3H8O
product | 6-Amino-6-desoxy-L-sorbose hydrochloride | Cl.NC[C@@H]([C@H]([C@@H](C(CO)=O)O)O)O | InChI=1S/C6H13NO5.ClH/c7-1-3(9)5(11)6(12)4(10)2-8;/h3,5-6,8-9,11-12H,1-2,7H2;1H/t3-,5+,6+;/m0./s1
